US05026856
7-(5-amino-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4oxoquinoline-3-carboxylic acid.
136 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 200 mg of isoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 130 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | isoindoline | 200 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(5-amino-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4oxoquinoline-3-carboxylic acid | 130 mg | NC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H17F2N3O3
